US05750793
4-(6-Methoxy-2-naphthyl)butan-2-one
24.72 Grams (0.077 moles) of 4-(5-bromo-6-methoxy-2-naphthyl)-4-hydroxybut-3-en-2-one, 4.57 g of anhydrous sodium acetate and 2.58 g of sodium acetate trihydrate, equivalent to 0.075 moles of sodium acetate, 2 g of a 50% suspension in water of 5% palladium on carbon, equivalent to 0.00047 moles of palladium, and 200 ml of methanol are put in a hydrogenator. The hydrogenator is washed with nitrogen in order to eliminate the oxygen and then hydrogen is introduced at the pressure of three atmospheres. The reaction temperature is kept at 40° C. for a period of time of 6 hours, then the hydrogen is let off, the hydrogenator is washed with nitrogen and the reaction mixture is filtered in order to eliminate the catalyst. The solution is brought to pH 6 with a 5% aqueous solution of sodium hydroxide and concentrated under vacuum. The oily residue is treated with 150 ml of toluene and 50 ml of water and after stirring for 15 minutes the two layers are separated. The aqueous phase is discarded while the organic phase is evaporated under vacuum at 70° C. obtaining an oil that is dissolved in 50 ml of methanol. The solution is kept for 2 hours at 0° C. and the precipitated solid is filtered, washed with 10 ml of methanol cooled to 0° C. and dried in oven under vacuum. The methanolic filtrates from crystallization and washing are concentrated under vacuum at half volume so obtaining, after cooling to 0° C., the crystallization of other product that is dried in oven under vacuum. 14 Grams of product are obtained in totality with an overall yield equal to 79.7%.

reactant | 4-(5-bromo-6-methoxy-2-naphthyl)-4-hydroxybut-3-en-2-one | 0.077 moles | BrC1=C2C=CC(=CC2=CC=C1OC)C(=CC(C)=O)O | C15H13BrO3
reactant | sodium acetate | 4.57 g | C(C)(=O)[O-].[Na+]
reactant | sodium acetate trihydrate | 2.58 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | sodium acetate | 0.075 moles | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium | 0.00047 moles | [Pd] | Pd
solvent | methanol | 200 ml | CO | CH4O
product | 4-(6-Methoxy-2-naphthyl)butan-2-one | COC=1C=C2C=CC(=CC2=CC1)CCC(C)=O | C15H16O2
